US07008940B1
1,4-Dimethoxy-2,3-dimethyl-5-(2-nitro-1-propenyl)benzene
A mixture of 2,5-dimethoxy-3,4-dimethylbenzaldehyde (38.9 g, 0.20 mol), ammonium acetate (10 g, 0.13 mol) and nitroethane (200 mL) was heated to reflux for 2 hours. The reaction mixture was diluted with diisopropyl ether, washed with water and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was recrystallized from hexane to obtain 33.6 g of the title compound.

reactant | 2,5-dimethoxy-3,4-dimethylbenzaldehyde | 0.20 mol, 38.9 g | COC1=C(C=O)C=C(C(=C1C)C)OC | C11H14O3
reactant | ammonium acetate | 0.13 mol, 10 g | C(C)(=O)[O-].[NH4+]
reactant | nitroethane | 200 mL | [N+](=O)([O-])CC | C2H5NO2
solvent | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 1,4-Dimethoxy-2,3-dimethyl-5-(2-nitro-1-propenyl)benzene | 33.6 g, Yield 67% | COC1=C(C(=C(C(=C1)C=C(C)[N+](=O)[O-])OC)C)C | C13H17NO4
